US06900209B2
A solution of 6-[1-(2-bromoethyl)-1H-[1,2,3]triazol-4-ylmethoxy]-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine (90 mg, 0.20 mmol), ethanol (2 ml) and methylamine (2.0 M in THF, 7.5 ml, 15 mmol) were heated at 90° C. for 4 h in a sealed tube. The reaction solvent was removed in vacuo, water added and extracted into dichloromethane. These extracts were washed with water and saturated brine then dried over magnesium sulphate, filtered and concentrated in vacuo. The resultant solid was purified by preparative thin layer chromatography on silica eluting with 5% methanol-dichloromethane containing 1% NH3 to give methyl-(2-{4-[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]-[1,2,3]triazol-1-yl}ethyl)amine as a White solid (32 mg). 1H NMR (400 MHz, d6-DMSO) δ 2.25 (3H, s), 2.59 (3H, s), 2.91 (2H, t, J6), 4.43 (2H, t, J 6), 5.70 (2H, s), 7.18 (1H, s), 7.94 (1H, t, J 7), 8.10 (1H, t, J 7), 8.19 (1H, d, J 8), 8.46 (1H, s), 8.56 (1H, d, J 8). m/z (ES+) 406 (M+H+).

reactant | 6-[1-(2-bromoethyl)-1H-[1,2,3]triazol-4-ylmethoxy]-3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazine | 0.20 mmol, 90 mg | BrCCN1N=NC(=C1)COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C18H15BrN8O2
reactant | methylamine | 15 mmol, 2.0 M, 7.5 ml | CN | CH5N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | methyl-(2-{4-[3-(5-methylisoxazol-3-yl)-[1,2,4]triazolo[3,4-α]phthalazin-6-yloxymethyl]-[1,2,3]triazol-1-yl}ethyl)amine | CNCCN1N=NC(=C1)COC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)C | C19H19N9O2
